US07528129B2
13d) (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylate
A solution of 100 mg (0.21 mmol) (R)-1-carboxy-2-(4-hydroxy-3,5-dimethyl-phenyl)-ethyl 4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylate, 74 mg (0.23 mmol) TBTU and 35 μL (0.26 mmol) triethylamine in 1 mL DMF was stirred for 1 h at RT. Then 35 mg (0.21 mmol) 1-(tetrahydropyran-4-yl)-piperazine was added and the reaction mixture was stirred for a further 5 h at RT. The reaction solution was purified by HPLC without any further working up. The fractions containing the product were combined and lyophilised.

reactant | (R)-1-carboxy-2-(4-hydroxy-3,5-dimethyl-phenyl)-ethyl 4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylate | 0.21 mmol, 100 mg | O=C1NC(=NN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)C)C(=O)O)C1=CC=CC=C1 | C25H28N4O6
reactant | TBTU | 0.23 mmol, 74 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.26 mmol, 35 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.21 mmol, 35 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(5-oxo-3-phenyl-4,5-dihydro-1,2,4-triazol-1-yl)-piperidine-1-carboxylate | O=C1NC(=NN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC(=C(C(=C1)C)O)C)C1=CC=CC=C1 | C34H44N6O6
